US04816452
c. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cycloheptyloxyimino)acetate
Ethyl 4-bromo-(Z)-2-(cycloheptyloxyimino)-3-oxobutyrate (6.3 g) was treated with thiourea as described in Example 4d. Crystallisation from dichloromethane/hexane gave the title compound as a white solid (4.1 g, 69%), m.p. 107°-8° C. (Found: C: 54.24, H: 6.72, N: 13.33. C14H21N3O3S requires C: 54.00, H: 6.80, N:13.49%). νmax (KBr) 3433, 2930, 1723, 1611, 1540 cm -1 ; δH (CDCl3) 1.33 (3H, t) 1.4-2.0 (12H, m), 4.35 (3H, q+m) 5.60 (2H, br s, exch. D2O), 6.64 (1H,ss).

reactant | Ethyl 4-bromo-(Z)-2-(cycloheptyloxyimino)-3-oxobutyrate | 6.3 g | BrCC(/C(/C(=O)OCC)=N/OC1CCCCCC1)=O | C13H20BrNO4
reactant | thiourea | NC(=S)N | CH4N2S
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cycloheptyloxyimino)acetate | 4.1 g, 69% | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1CCCCCC1 | C14H21N3O3S
